US20010044445A1
3-(2-furyl)-5-(trifluoromethyl)-1H-pyrazole
4,4,4-Trifluoro-1-(2-furyl)-1,3-butanedione (0.9 g, 4.39 mmol) and hydrazine monohydrate (0.19 mL, 4.82 mmol) were combined in toluene (10 mL) and refluxed overnight. After cooling to room temperature, solvent was removed in vacuo. The product (0.77 g, 87% crude yield) was used without further purification.

reactant | 4,4,4-Trifluoro-1-(2-furyl)-1,3-butanedione | 4.39 mmol, 0.9 g | FC(C(CC(=O)C=1OC=CC1)=O)(F)F | C8H5F3O3
reactant | hydrazine monohydrate | 4.82 mmol, 0.19 mL | O.NN
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-furyl)-5-(trifluoromethyl)-1H-pyrazole | O1C(=CC=C1)C1=NNC(=C1)C(F)(F)F | C8H5F3N2O
